### PR TITLE
Loop simplification

### LINKED ISSUE #82: Loop circuit constructs that simplify under `circuit_norm`
Right now when proving something about loops we need to rw using a specific theorem and provide an instance of `ConstaintLawfulCircuits`. Both of this is hard to discover. Instead, we want `simp only [circuit_norm]` to do the work.

Getting loops to simplify under `circuit_norm` is not possible using lemmas that need a type class instance, because `simp` won't come up with that instance and so won't apply the lemma.

The solution is to already derive the necessary type class instance _when adding the loop as part of the circuit_. So we need something like `Circuit.mapM` that already requires the instance as argument -- so that we can have lemmas about this construct that `simp` can apply.

### PR DESCRIPTION
**Pull request by mitschabaude**
closes #82 

* add loop construct `Circuit.mapFinRange`, i.e. a `for i=0...n` loop usable in a circuit
* make `mapFinRange` simplify smoothly with `circuit_norm`
* rewrite Chi, ThetaC and ThetaXor to use it

### CODE REVIEW

File: Clean/Gadgets/Addition32/Addition32Full.lean
Comment (mitschabaude) [inline Clean/Gadgets/Addition32/Addition32Full.lean:1]: simplifications here are unrelated to the PR

File: Clean/Circuit/Loops.lean
Comment (mitschabaude) [inline Clean/Circuit/Loops.lean:1]: additions here are the main content of the PR

File: Clean/Gadgets/Keccak/Chi.lean
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Chi.lean:1]: soundness proof of chi is now very natural and doesn't require special knowledge of our loop theorems. it also no longer requires an explicit `LawfulCircuit` instantiation

File: Clean/Utils/Vector.lean [hunk 1]
```diff
@@ -140,18 +140,39 @@ theorem induct_push_push {motive : {n: ℕ} → Vector α n → Sort u}
...
+
+theorem getElem_finRange {n} (i : ℕ) (hi : i < n) : (finRange n)[i] = ⟨ i, hi ⟩ := by
+  simp [finRange, List.finRange]
+
+theorem finRange_succ {n} : finRange (n + 1) = ((finRange n).map Fin.castSucc).push n := by
+  ext i hi
+  simp only [getElem_finRange, getElem_push, getElem_map, Fin.castSucc_mk]
+  by_cases hi' : i < n <;> simp [hi']; linarith
+
+def mapFinRange (n: ℕ) (create: Fin n → α) : Vector α n := finRange n |>.map create
```
Comment (mitschabaude) [inline Clean/Utils/Vector.lean:156]: `Vector.mapFinRange` is changed to take the length argument explicitly, for consistency with similar methods

File: Clean/Circuit/Basic.lean [hunk 2]
```diff
@@ -594,11 +594,17 @@ attribute [circuit_norm] Vector.map_mk List.map_toArray List.map_cons List.map_n
...
   Vector.eq_mk Vector.mk_eq
 
--- simplify `vector.get 0` (which occurs in ProvableType definitions)
--- TODO handle other small indices as well
+-- simplify Vector.mapFinRange
+attribute [circuit_norm] Vector.mapFinRange_succ Vector.mapFinRange_zero
+    Nat.cast_zero Nat.cast_one Nat.cast_ofNat Fin.coe_eq_castSucc Fin.reduceCastSucc
+
+-- simplify stuff like (3 : Fin 8).val = 3 % 8
+attribute [circuit_norm] Fin.coe_ofNat_eq_mod
```
Comment (mitschabaude) [inline Clean/Circuit/Basic.lean:605]: unrelated to other stuff in this PR, I played with `circuit_norm` attributes a bit to improve simplification of commonly occurring expressions

File: Clean/Circuit/Loops.lean [hunk 3]
```diff
@@ -346,5 +346,59 @@ theorem mapFinRangeM_completeness {n : ℕ} :
   simp only [completeness_iff_generic, mapFinRangeM_generic]
 end
 end constraints_hold
+
+-- Loop constructs designed to simplify under `circuit_norm`
+
+def mapFinRange (m : ℕ) [NeZero m] [Nonempty β] (body : Fin m → Circuit F β)
+    (_lawful : ConstantLawfulCircuits body := by infer_constant_lawful_circuits) : Circuit F (Vector β m) :=
```
Comment (gio54321) [inline Clean/Circuit/Loops.lean:353]: Nice, this is fine as long as `infer_constant_lawful_circuits` works well enough. I'm curious about strange situations like nested loops, in which this tactic might not work. In that case, we can just provide an instance alongside the loop's definition.
But the tactic works well in practice, so it should not be needed.

File: Clean/Gadgets/Keccak/Chi.lean [hunk 4]
```diff
@@ -24,75 +24,44 @@ def spec (state : KeccakState (F p)) (out_state : KeccakState (F p)) :=
...
-    rw [←h_input, Not.eval_not]
+  -- simplify constraints
+  simp only [circuit_norm, eval_vector, Vector.ext_iff] at h_input
+  simp only [assumptions, KeccakState.is_normalized, Fin.getElem_fin] at state_norm
+  simp only [main, circuit_norm, subcircuit_norm, Xor.circuit, And.And64.circuit, Not.circuit,
+    Xor.assumptions, Xor.spec, And.And64.assumptions, And.And64.spec, Nat.reduceAdd] at h_holds
 
-  have ⟨ state_not_value, state_not_norm ⟩ := Not.not_bytewise_value_spec (state_norm (i + 5))
-  simp_all [KeccakState.value]
+  simp_all
```
Comment (gio54321) [inline Clean/Gadgets/Keccak/Chi.lean:58]: Very nice!

File: Clean/Gadgets/Keccak/ThetaC.lean [hunk 5]
```diff
@@ -46,66 +27,68 @@ def spec (state : KeccakState (F p)) (out: KeccakRow (F p)) :=
...
+  intro i
+  specialize h_holds i
+  obtain ⟨ h0, h1, h2, h3 ⟩ := h_holds
+  obtain ⟨ xor0, norm0 ⟩ := h0
+  have ⟨ xor1, norm1 ⟩ := h1 norm0
+  have ⟨ xor2, norm2 ⟩ := h2 norm1
+  have ⟨ xor4, norm ⟩ := h3 norm2
+  clear h1 h2 h3 norm0 norm1 norm2
+  use norm
+  simp only [xor0, xor1, xor2, xor4, KeccakState.value, Vector.getElem_map]
```
Comment (gio54321) [inline Clean/Gadgets/Keccak/ThetaC.lean]: Nit simplification
```suggestion
  simp only [KeccakState.value, Vector.getElem_map]
  intro i
  specialize h_holds i
  aesop
```

**Review by gio54321 — APPROVED** [review]
LGTM
